US07902252B2
2.69. Synthesis of methyl 4-(3,5-dimethylphenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized in two steps. First, methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.5 g, 2.79 mmol) and 3,5-dimethylphenylmagnesium bromide (14 mL, 6.97 mmol, 0.5 M in THF, 2.5 equiv) were reacted according to General Procedure 3 to give the endo olefin-containing compound methyl 4-(3,5-dimethylphenyl)-1,6-dihydrocyclopenta[b]pyrrole-2-carboxylate, which was then hydrogenated according to General Procedure 6 (with 5% Pd/C), and was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane to afford the title compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.20-2.36 (m, 7H), 2.71-2.98 (m, 3H), 3.83-3.86 (m, 3H), 4.17 (t, J=7.35 Hz, 1H), 6.49 (s, 1H), 6.67 (d, J=1.42 Hz, 1H), 6.82-6.88 (m, 2H), 9.02 (br. s, 1H).

reactant | methyl 4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.79 mmol, 0.5 g | O=C1CCC=2NC(=CC21)C(=O)OC | C9H9NO3
reactant | 3,5-dimethylphenylmagnesium bromide | 6.97 mmol, 0.5 M, 14 mL, 2.5 equiv | CC=1C=C(C=C(C1)C)[Mg]Br
product | methyl 4-(3,5-dimethylphenyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | CC=1C=C(C=C(C1)C)C1CCC=2NC(=CC21)C(=O)OC | C17H19NO2
